US05834454
A mixture of ethyl 4-methyl-1H-indole-2-carboxylate (42.9 g, 211 mmol), 60% sodium hydride (9.29 g, 232 mmol) and N,N-dimethylformamide (300 ml) was stirred at room temperature for 1 hour. A solution of 2-tert-butoxycarbonylaminoethyl 4-toluenesulfonate (86.6 g, 275 mmol) in N,N-dimethylformamide (200 ml) was added dropwise and the resulting mixture was stirred at room temperature for 9 hours. The reaction mixture was poured into ice water and extracted twice with ethyl acetate, and the extract solution was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent:ethyl acetate/n-hexobtain 2 3/97) to obtain 24.4 g of ethyl 1-(2-tert-butoxycarbonylaminoethyl)-4-methyl-1H-indole-2-carboxylate.

reactant | ethyl 4-methyl-1H-indole-2-carboxylate | 211 mmol, 42.9 g | CC1=C2C=C(NC2=CC=C1)C(=O)OCC | C12H13NO2
reactant | sodium hydride | 232 mmol, 9.29 g | [H-].[Na+]
reactant | 2-tert-butoxycarbonylaminoethyl 4-toluenesulfonate | 275 mmol, 86.6 g | C1(=CC=C(C=C1)S(=O)(=O)OCCNC(=O)OC(C)(C)C)C | C14H21NO5S
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(2-tert-butoxycarbonylaminoethyl)-4-methyl-1H-indole-2-carboxylate | 24.4 g | C(C)(C)(C)OC(=O)NCCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C19H26N2O4
